US04957928
A solution of 4.0 g (16 mmol) of 3-(2-azidoethyl)-2,2-dimethyl-6-fluorochroman in 30 ml of absolute tetrahydrofuran is added dropwise within a period of 30 minutes to a suspension of 0.61 g (16 mmol) of lithium aluminium hydride in 30 ml of absolute diethyl ether. The reaction mixture is then stirred for 2 hours at room temperature and then carefully decomposed with 0.61 ml of water, 0.61 ml of sodium hydroxide solution (15%) and 1.83 ml of water. The resulting precipitate is filtered off with suction and the filtrate is concentrated by evaporation in vacuo. The oily residue is dissolved in diethyl ether and the solution is extracted with 2N hydrochloric acid. The combined hydrochloric acid extracts are rendered alkaline with sodium hydroxide solution (30%) while cooling with ice and extracted with dichloromethane. The combined dichloromethane phases are dried over sodium sulfate and concentrated by evaporation in vacuo, yielding 3.21 g (90% of the theoretical yield) of 3-(2 -aminoethyl)-2,2-dimethyl-6-fluoro-chroman in the form of a yellow oil. 3-(2-aminoethyl)-2,2-dimethyl-6-fluoro-chroman hydrochloride, prepared therefrom with hydrochloric acid in diethyl ether, crystallises from methanol/diethyl ether and has a melting range of from 249° to 251°.

reactant | 3-(2-azidoethyl)-2,2-dimethyl-6-fluorochroman | 16 mmol, 4.0 g | N(=[N+]=[N-])CCC1C(OC2=CC=C(C=C2C1)F)(C)C | C13H16FN3O
reactant | lithium aluminium hydride | 16 mmol, 0.61 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.61 ml | O | H2O
reactant | sodium hydroxide | 0.61 ml | [OH-].[Na+]
reactant | water | 1.83 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 3-(2 -aminoethyl)-2,2-dimethyl-6-fluoro-chroman | NCCC1C(OC2=CC=C(C=C2C1)F)(C)C | C13H18FNO
